US05885999
a) 1-t-Butoxycarbonylpiperidine-4-carboxylic Acid
Di-t-butyldicarbonate (23.42 g, 107.3 mmol) in dichloromethane (100 mL) was added slowly to a mixture of 4-piperidinecarboxylic acid (12.60 g, 97.6 mmol) and triethylamine (13.60 mL, 9.87 g, 97.6 mmol) in dichloromethane (50 mL) and the mixture was stirred at room temperature for 18 h. N,N-Dimethylethylenediamine (3.46 mL, 2.87 g, 32.5 mmol) was added and the mixture was stirred at room temperature for 30 min. Dichloromethane (100 mL) was added and the mixture was washed with aqueous citric acid (10%, 2×200 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (21.05 g, 94%), δH (250 MHz, CDCl3) 4.02 (2H, m), 2.86 (2H, m), 2.49 (1H, m), 1.91 (2H, m), 1.64 (2H, m), and 1.46 (9H, s).

reactant | Di-t-butyldicarbonate | 107.3 mmol, 23.42 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-piperidinecarboxylic acid | 97.6 mmol, 12.60 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | triethylamine | 97.6 mmol, 13.60 mL, 9.87 g | C(C)N(CC)CC | C6H15N
reactant | N,N-Dimethylethylenediamine | 32.5 mmol, 3.46 mL, 2.87 g | CN(CCN)C | C4H12N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-t-Butoxycarbonylpiperidine-4-carboxylic Acid | 21.05 g, 94% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
